2191-10-06 18:47:00 Physician Attending Progress Note
Chief Complaint: hyperglycemia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71M pna and hyperglycemia in [**8-21**]. Returned to ER with cough and SOB -
   82% on 4L O2. CXR showed pna. In ER transiently hypotensive which
   responded to IVF. Also, glucose > 700 and started on heparin drip for
   an elevated troponin.
   History obtained from housestaff
   Patient unable to provide history: dementia
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2191-10-6**] 06:19 PM
   Other medications:
   Changes to medical and family history:
   CAD
   MI [**9-20**]
   HTN
   CVA - left hemiparesis
   dementia
   complex multidrug resistant infections
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-10-6**] 06:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
             Total In:
             3,001 mL
   PO:
             TF:
   IVF:
   1 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,001 mL
   Respiratory support
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Wheezes : RUL lobe)
   Abdominal: Soft, Non-tender
   Skin:  stage 2 decub ulcer
   Neurologic: No(t) Attentive, No(t) Follows simple commands,
   Labs / Radiology
   326
   0.8
   33
   3.3
   61
   [**Telephone/Fax (1) 10359**]
   33
   26
        [image002.jpg]
   Other labs: PT / PTT / INR:16.2/107.2/1.4
   Imaging: CXR with enlarging RUL mass, possible RUL infiltrate
   ECG: EKG ST 113, no obvious ischemia
   Assessment and Plan
   pna - antibiotics
   lung cancer - enlarging mass, will make family aware
   hypernatremia  - IVF, follow
   hyperglycemia - on IV insulin, follow glucose
   goals of care - focus should be [**Last Name (LF) 1396**], [**First Name3 (LF) 178**] discuss with family
   elevated troponin
 decreasing, no ischemia on EKG, stop
   anticoagulation
   ICU Care
   Nutrition: g-tube
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-10-6**] 05:55 PM
   18 Gauge - [**2191-10-6**] 05:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2191-10-07 10:06:00 Physician Attending Progress Note
Chief Complaint: HONK, septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Started on meropenem and vancomycin overnight. Developed hypotension
   overnights/p lopressor 25mg png x1 requiring low dose levophed. Heparin
   discontinued. This am hypotension with brady cardia given atropine, amp
   bicarbonate, with improvement of his heart rate.
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2191-10-7**] 04:00 AM
   Vancomycin - [**2191-10-7**] 07:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Vancomycin 1g iv q12, insulin, glargine, sliding scale, meropenem, 500
   iv q6h, chlorhexidine, docusate, reglan, asa 325, vitamin C,
   synthryoid, clonidine patch on hold, MVI, s/c heparin, norepinephrine
   0.15, lansoprazole, metoprolol 25mg po x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-10-7**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (65 - 104) bpm
   BP: 91/38(49) {64/25(38) - 136/94(106)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 95 (95 - 95) mmHg
   Total In:
                                                                  3,953 mL
                                                                  3,120 mL
   PO:
   TF:
                                                                    354 mL
   IVF:
                                                                    953 mL
                                                                  2,166 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    346 mL
   Urine:
                                                                    360 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,243 mL
                                                                  2,774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: NRB
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: somonlent, grimacies and groans to stimulation
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), brady cardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool, pale
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.1 g/dL
   318 K/uL
   272 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   47 mg/dL
   125 mEq/L
   160 mEq/L
   29.8 %
   21.2 K/uL
        [image002.jpg]
                             [**2191-10-7**]  04:32 AM
   WBC
   21.2
   Hct
   29.8
   Plt
   318
   Cr
   0.6
   Glucose
   272
   Other labs: PT / PTT / INR:16.2/107.2/1.4, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:0.9 mg/dL
   Imaging: CXR stable c/w yesterd, infiltrate in the RUL.
   Microbiology: Blood cultures pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Likely post obstructive pneumonia vs HAP, f/u blood cultures. VBG
   currently without significant hypercarbia will continue to monitor.
   RUL mass: send sputum cytology, will differ bronch currently ue to
   other higher priority medical illness currently.
 HYPERGLYCEMIA/hypernatremia/hyperosmolar state:
   Continue sliding scale insulin, recieved glargine yesterday, holding TF
   due to hypotension currently. Will restart IV insulin drip if sugars
   remain elevated
   Will give 1L NS bolus for hypotension, 1/2NS at 150cc, untill sugar
   <250 then change to D5W at 100cc.
 Fever:
   fever curve and leukocytosis trending down on vanco/meropenem and IVF.
   Patient has liquid stool with mucous will add on vanco po and flagyl
   iv, send C.diff sample. Continue to monitor.
Elevated troponin: EKG at baseline continue ASA, holding bblocker due
   to hypotension
Hypotension: Sepsis, volume depletion from HONK, continue IVF volume
   resuscitation, wean levophed as tolerated. Place A-line.
Altered mental status: dementia, history of CVA, likely superimposed
   delirium from hyperantremia and infection.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-10-7**] 12:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2191-10-6**] 05:55 PM
   18 Gauge - [**2191-10-6**] 05:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2191-10-07 10:09:00 Physician Attending Progress Note
Chief Complaint: HONK, septic [** 1054**]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Started on meropenem and vancomycin overnight. Developed hypotension
   overnights/p lopressor 25mg png x1 requiring low dose levophed. Heparin
   discontinued. This am hypotension with brady cardia given atropine, amp
   bicarbonate, with improvement of his heart rate.
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2191-10-7**] 04:00 AM
   Vancomycin - [**2191-10-7**] 07:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Vancomycin 1g iv q12, insulin, glargine, sliding scale, meropenem, 500
   iv q6h, chlorhexidine, docusate, reglan, asa 325, vitamin C,
   synthryoid, clonidine patch on hold, MVI, s/c heparin, norepinephrine
   0.15, lansoprazole, metoprolol 25mg po x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-10-7**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (65 - 104) bpm
   BP: 91/38(49) {64/25(38) - 136/94(106)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 95 (95 - 95) mmHg
   Total In:
                                                                  3,953 mL
                                                                  3,120 mL
   PO:
   TF:
                                                                    354 mL
   IVF:
                                                                    953 mL
                                                                  2,166 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    346 mL
   Urine:
                                                                    360 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,243 mL
                                                                  2,774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: NRB
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: somonlent, grimacies and groans to stimulation
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), brady cardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool, pale
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.1 g/dL
   318 K/uL
   272 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.3 mEq/L
   47 mg/dL
   125 mEq/L
   160 mEq/L
   29.8 %
   21.2 K/uL
        [image002.jpg]
                             [**2191-10-7**]  04:32 AM
   WBC
   21.2
   Hct
   29.8
   Plt
   318
   Cr
   0.6
   Glucose
   272
   Other labs: PT / PTT / INR:16.2/107.2/1.4, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, Ca++:6.8 mg/dL, Mg++:2.2 mg/dL, PO4:0.9 mg/dL
   Imaging: CXR stable c/w yesterd, infiltrate in the RUL.
   Microbiology: Blood cultures pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Likely post obstructive pneumonia vs HAP, f/u blood cultures. VBG
   currently without significant hypercarbia will continue to monitor.
   RUL mass: send sputum cytology, will differ bronch currently ue to
   other higher priority medical illness currently.
 HYPERGLYCEMIA/hypernatremia/hyperosmolar state:
   Continue sliding scale insulin, recieved glargine yesterday, holding TF
   due to hypotension currently. Will restart IV insulin drip if sugars
   remain elevated
   Will give 1L NS bolus for hypotension, 1/2NS at 150cc, untill sugar
   <250 then change to D5W at 100cc.
 Fever:
   fever curve and leukocytosis trending down on vanco/meropenem and IVF.
   Patient has liquid stool with mucous will add on vanco po and flagyl
   iv, send C.diff sample. Continue to monitor.
Elevated troponin: EKG at baseline continue ASA, holding bblocker due
   to hypotension
Hypotension: Sepsis, volume depletion from HONK, continue IVF volume
   resuscitation, wean levophed as tolerated. Place A-line.
Altered mental status: dementia, history of CVA, likely superimposed
   delirium from hyperantremia and infection.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2191-10-7**] 12:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2191-10-6**] 05:55 PM
   18 Gauge - [**2191-10-6**] 05:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He became hypotensive overnight and this morning also developed
   bradycardia and resp distress. He is now on pressors and required
   atropine earlier. His resp distress has stabilized.
   Exam notable for
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (65 - 104) bpm
   BP: 91/38(49) {64/25(38) - 136/94(106)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 95 (95 - 95) mmHg
   Total In:
                                                                  3,953 mL
                                                                  3,120 mL
   PO:
   TF:
                                                                    354 mL
   IVF:
                                                                    953 mL
                                                                  2,166 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    346 mL
   Urine:
                                                                    360 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,243 mL
                                                                  2,774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: NRB
   SpO2: 100%
   Sleepy, non-interactive, groaning
   Heent unremarkable
   Lungs congested
   Hrt rrr
   Abd benign
   Extrem no edema
   Labs reviewed and recorded above
   Imaging: CXR mass RUL, ? infiltrate right lower lobe
   Problems: [**Name2 (NI) 1054**], likely pna, hyperglycemia, hypernatremia,
   Agree with plan to continue abx, wean pressors as tolerated, continue
   insulin, aggressive IVF, follow lytes
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2191-10-7**] 15:39 ------

2191-10-08 08:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CARDIAC ARREST - At [**2191-10-7**] 10:46 AM
   sbp 65/ HR 30's pt unresponsive given 1 amp of atropine and 1 amp na
   bicarb. levophed was turned up to .5mcg/kg/min patient responded he was
   also given 2l NS bolus, 4gm caliciu gluconate and 20 meq kcl. levophed
   weaned per bp blood glucose 364
   > Now off pressors as of this AM
   > UOP around 30-40 cc/hr
   Allergies:
   Penicillins
   Unknown;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2191-10-8**] 06:00 AM
   Vancomycin - [**2191-10-8**] 07:47 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2191-10-8**] 01:20 AM
   Heparin Sodium (Prophylaxis) - [**2191-10-8**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-10-8**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 59 (59 - 84) bpm
   BP: 97/30(85) {73/29(40) - 156/76(95)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                  9,375 mL
                                                                  2,495 mL
   PO:
             TF:
                                                                    601 mL
                                                                    422 mL
   IVF:
                                                                  7,924 mL
                                                                  1,573 mL
   Blood products:
   Total out:
                                                                    841 mL
                                                                    405 mL
   Urine:
                                                                    741 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,534 mL
                                                                  2,090 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 97%
   ABG: 7.52/62/113/25/23
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   275 K/uL
   123 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   123 mEq/L
   152 mEq/L
   27.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2191-10-7**]  04:32 AM
                             [**2191-10-7**]  09:18 AM
                             [**2191-10-7**]  12:22 PM
                             [**2191-10-7**]  05:30 PM
                             [**2191-10-7**]  07:57 PM
                             [**2191-10-8**]  12:03 AM
                             [**2191-10-8**]  05:50 AM
   WBC
   21.2
   13.0
   Hct
   29.8
   29
   27.6
   Plt
   318
   275
   Cr
   0.6
   0.5
   0.3
   TCO2
   52
   Glucose
   272
   356
   339
   280
   166
   123
   Other labs: PT / PTT / INR:13.5/26.9/1.2, Lactic Acid:1.7 mmol/L,
   Albumin:2.1 g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Likely post obstructive pneumonia vs HAP,  there may be some suggestion
   of cavitation.
   RUL mass: send sputum cytology, will differ bronch currently ue to
   other higher priority medical illness currently, this is most c/w a
   lung CA and post obstructive  state.  Broad coverage
   - Cont Vanco and Meropenem.
 HYPERGLYCEMIA/hypernatremia/hyperosmolar state:
   Slowly improving
   > Hypernatremia: slowly improving, increase free water via G tube to
   (300 cc q 4) and stop the D5 atter next liter (total deficit as of this
   AM was about 4L).
   - f/u PM Na
 Fever: fever curve and leukocytosis trending down on vanco/meropenem
   and IVF. Empiric c. dif based on assessment  f/u c. dif. If neg then we
   will stop if neg (PO vanco and IV flagyl).
    - treatment as above
Elevated troponin strain [**2-14**] unerlying infection, troponin down
   trending. [**Month (only) 60**] be able to add back low dose metop today.
Hypotension: Sepsis, volume depletion from HONK, continue IVF volume
   resuscitation, now off pressors. Cont to follow.
Altered mental status: dementia, history of CVA, likely superimposed
   delirium from hyperantremia and infection. Supportive care
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2191-10-8**] 08:12 AM 62 mL/hour, Free
   water as above.
   Glycemic Control:   as above
   Lines:
   Multi Lumen - [**2191-10-6**] 05:55 PM (femoral), which would like to get
   out.
   Needs IV access, PICC line referral.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Call out to the floor.
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   Case discussed with Drs. [**First Name (STitle) 1162**] and [**Doctor Last Name **]  71 y/o man with complex PMH
   (dementia and FTT s/p G tube placement, chronic nursing home resident,
   non verbal at baseline, recurrent admissions for MDR UTI/ aspiration
   pneumonia, s/p CVA, NSTEMI, DHF, HTN, and DM) was  admitted with
   hypotension, hypoxia, HONK (NA 160, glucose 700s), fetl potentially
   from post-obstructive pneumonia from growing hilar mass vs C.diff.
   Main event was hypotense/bradycardic event yesterday that responded to
   medications.  Stable overnight.  Will continue present antibiotics and
   electrolyte/metabolic management.  Other issues as per the notes of
   Drs. [**First Name (STitle) 1162**] and [**Name5 (PTitle) 6050**] today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2191-10-9**] 12:23 AM ------